US08466167B2
A solution of 2-amino-4-(methoxycarbonyl)phenylboronic acid hydrochloride (commercially available) (1.0 eq.), triethylamine (3.0 eq.), di-tert-butyl dicarbonate (1.1 eq.), and DMAP (0.1 eq.) in CH3CN (0.3 M) was stirred at 40° C. overnight. After cooling to ambient temperature, the reaction mixture was concentrated en vaccuo to obtain a crude residue. The crude material was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-30% MeOH/DCM to give 2-(tert-butoxycarbonylamino)-4-(methoxycarbonyl)phenylboronic acid as a brown solid.

reactant | 2-amino-4-(methoxycarbonyl)phenylboronic acid hydrochloride | Cl.NC1=C(C=CC(=C1)C(=O)OC)B(O)O
reactant | triethylamine | 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.1 eq. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 0.1 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 0.3 M | CC#N | C2H3N
product | 2-(tert-butoxycarbonylamino)-4-(methoxycarbonyl)phenylboronic acid | C(C)(C)(C)OC(=O)NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C13H18BNO6
